US05496927
Into a Parr flask flushed with argon containing 450 mg of 10% palladium on charcoal catalyst was added a solution of Ac-L-prolyl-L-alanyl-L-proline benzyl ester in (1.0 g, 2.41 mmol) absolute ethanol (100 ml). The contents were shaken under 40 psi of hydrogen overnight at room temperature. The mixture was filtered through celite and the filtrate concentrated on a rotary evaporator to give crude Ac-L-prolyl-L-alanyl-L-proline which was crystallizedfrom tetrahydrofuran-methanol-ether to give the desired product (0.57 g) in 73% yield.

reactant | L-prolyl-L-alanyl-L-proline benzyl ester | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC([C@H]1NCCC1)=O)C)=O)=O | C20H27N3O4
reactant | ethanol | 2.41 mmol, 100 ml, 1.0 g | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
product | L-prolyl-L-alanyl-L-proline | N1[C@H](C(=O)N[C@@H](C)C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C13H21N3O4
